US05998433
To a solution of 9.03 g of the above crude N-allyl-N-(3-furylmethyl)-2-chloroethylamine in 200 ml of tetrahydrofuran, 63.8 ml (102 mmol) of 1.6 M n-butyl lithium hexane was added under ice-cooling, followed by stirring at room temperature for 4 hours. The reaction mixture was poured into aqueous sodium hydroxide and extracted with dichloromethane 3 times. The combined organic layer was dried over anhydrous magnesium sulfate; the solvent was distilled off under reduced pressure. The resulting crude product was purified by silica gel column chromatography (hexane/ethyl acetate=9/1) to yield 5-allyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine.

reactant | N-allyl-N-(3-furylmethyl)-2-chloroethylamine | 9.03 g | C(C=C)N(CC1=COC=C1)CCCl | C10H14ClNO
reactant | n-butyl lithium hexane | 102 mmol, 1.6 M, 63.8 ml | CCCCCC.C(CCC)[Li]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 5-allyl-4,5,6,7-tetrahydrofuro[3,2-c]pyridine | C(C=C)N1CC2=C(CC1)OC=C2 | C10H13NO
